US04898874
7-[2-(4-Acetyl-1-piperazinyl)-2-oxoethyl]-5-chloro-3-phenyl-2,1-benzisoxazole
The title compound is prepared by reacting the acid chloride of 5-chloro-3-phenyl-2,1-benzisoxazole-7-acetic acid with N-acetylpiperazine in an aprotic solvent and washing the reaction mixture with sodium bicarbonate solution.

reactant | 5-chloro-3-phenyl-2,1-benzisoxazole-7-acetic acid | ClC=1C=C(C=2C(=C(ON2)C2=CC=CC=C2)C1)CC(=O)O | C15H10ClNO3
reactant | N-acetylpiperazine | C(C)(=O)N1CCNCC1 | C6H12N2O
product | 7-[2-(4-Acetyl-1-piperazinyl)-2-oxoethyl]-5-chloro-3-phenyl-2,1-benzisoxazole | C(C)(=O)N1CCN(CC1)C(CC1=CC(=CC2=C(ON=C21)C2=CC=CC=C2)Cl)=O | C21H20ClN3O3
